US07951951B2
At 60° C., 600 mg (2.48 mmol) of 5-[2-(chloromethyl)prop-2-en-1-yl]-4-pyrrolidin-1-ylfuran-2(5H)-one (V-1a), 354 mg (2.48 mmol) of 1-(6-chloropyridin-3-yl)methanamine and 0.43 ml (2.48 mmol) of N-ethyl-N-isopropylpropan-2-amine in 10 ml of acetonitrile are stirred for 21 hours. Concentration under reduced pressure and purification of the residue by column chromatography on silica gel (silica gel 60, Merck, particle size: 0.04 to 0.063 mm) using the mobile phase mixture dichloromethane:methanol (98:2 to 90:10) gives 650 mg (73% of theory) of 5-[2-({[(6-chloropyridin-3-yl)methyl]amino}methyl)prop-2-en-1-yl]-4-pyrrolidin-1-ylfuran-2(5H)-one.

reactant | 5-[2-(chloromethyl)prop-2-en-1-yl]-4-pyrrolidin-1-ylfuran-2(5H)-one | 2.48 mmol, 600 mg | ClCC(CC1C(=CC(O1)=O)N1CCCC1)=C | C12H16ClNO2
reactant | 1-(6-chloropyridin-3-yl)methanamine | 2.48 mmol, 354 mg | ClC1=CC=C(C=N1)CN | C6H7ClN2
reactant | N-ethyl-N-isopropylpropan-2-amine | 2.48 mmol, 0.43 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 5-[2-({[(6-chloropyridin-3-yl)methyl]amino}methyl)prop-2-en-1-yl]-4-pyrrolidin-1-ylfuran-2(5H)-one | 650 mg, 73% | ClC1=CC=C(C=N1)CNCC(CC1C(=CC(O1)=O)N1CCCC1)=C | C18H22ClN3O2
